US04963543
To a mixture of dimethylformamide (1.50 ml) and tetrahydrofuran (10 ml) was dropwise added phosphorus oxychloride (1.50 ml) at -5°~5° C. and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added a solution of (2S,4R)-2-carboxymethyloxymethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.30 g) in tetrahydrofuran (20 ml) at -5°~5° C., followed by stirring at the same temperature for 30 minutes. The mixture was dropwise added to concentrated ammonia water (30 ml) at 0°-10° C. with stirring. The mixture was stirred at the same condition for 2 hours. Tetrahydrofuran was evaporated under reduced pressure to give a mixture. The mixture was extracted with ethyl acetate (50 ml×3). The ethyl acetate layer was dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (3:97 V/V) to give (2S,4R)-2-(carbamylmethyloxymethyl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.43 g).

reactant | dimethylformamide | 1.50 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 1.50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2S,4R)-2-carboxymethyloxymethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.30 g | C(=O)(O)COC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O8
reactant | ammonia water | 30 ml | O.N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-(carbamylmethyloxymethyl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.43 g | C(N)(=O)COC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O7
